2114-12-04 06:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Sepsis
   24 Hour Events:
 STOOL CULTURE - At [**2114-12-3**] 08:34 PM
 SPUTUM CULTURE - At [**2114-12-3**] 08:35 PM
 NASAL SWAB - At [**2114-12-3**] 08:35 PM
 EKG - At [**2114-12-3**] 08:46 PM
 MIDLINE - START [**2114-12-3**] 10:10 PM
   - bolused x3 at 500cc on arrival as thought to be hypovolemia
   - bolused an additional 1L NS as became hypotensive to 70's, BP's
   increaed to 90's transiently then down to the 80's
   - dopamine started
   - a-line attempted multiple times - unsucessful as very calcified
   arteries
   - UOP remained low at 5-45 cc/hr overnight
   - Goal MAPs were >65, only able to get as high at 60
   Allergies:
   Cephalosporins
   Rash
   Last dose of Antibiotics:
   Vancomycin - [**2114-12-3**] 11:26 PM
   Metronidazole - [**2114-12-4**] 04:52 AM
   Piperacillin/Tazobactam (Zosyn) - [**2114-12-4**] 06:22 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2114-12-3**] 10:05 PM
   Heparin Sodium (Prophylaxis) - [**2114-12-4**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-12-4**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 71 (61 - 82) bpm
   BP: 102/43(58) {77/27(40) - 120/63(74)} mmHg
   RR: 25 (13 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  5,780 mL
                                                                  1,310 mL
   PO:
             TF:
   IVF:
                                                                  1,780 mL
                                                                  1,310 mL
   Blood products:
   Total out:
                                                                    125 mL
                                                                    145 mL
   Urine:
                                                                     75 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,655 mL
                                                                  1,165 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   GEN: Well-appearing, well-nourished, no acute distress. Has NRB mask on
   but not fully inflated
   HEENT: EOMI, PERRL, sclera anicteric, no epistaxis or rhinorrhea, MMM,
   OP Clear
   NECK: No JVD
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   PULM: rhoncorous throughout, bronchial breath sounds, no wheeze or
   crackle
   ABD: + bs, TTP greatest at LLQ, (+) guarding, no rebound
   EXT: 1+ [**Location (un) **] bilaterally
   NEURO: alert, oriented to person, place, and time.
   SKIN: Stage 4 decub ulcer, stage 2 ulcers on heels bilaterally
   Labs / Radiology
   100 K/uL
   10.3 g/dL
   99 mg/dL
   3.4 mg/dL
   20 mEq/L
   4.6 mEq/L
   99 mg/dL
   108 mEq/L
   141 mEq/L
   32.2 %
   23.8 K/uL
        [image002.jpg]
                             [**2114-12-3**]  08:58 PM
                             [**2114-12-4**]  03:21 AM
   WBC
   28.8
   23.8
   Hct
   31.8
   32.2
   Plt
   99
   100
   Cr
   3.6
   3.4
   Glucose
   94
   99
   Other labs: PT / PTT / INR:20.0/44.5/1.9, Lactic Acid:0.9 mmol/L,
   Ca++:7.4 mg/dL, Mg++:2.5 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 URINARY TRACT INFECTION (UTI)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 DIARRHEA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PARKINSON'S DISEASE
 IMPAIRED SKIN INTEGRITY
 HYPOTHYROIDISM
   86 yo M with PMH of Parkinson's, c. difficile, chronic renal
   insufficeny, stage 4 decub ulcer who presents from nursing home with
   fevers, increased sputum production, and proteus bacterimia and UTI now
   requiring pressor support.
   # Hypotension: On presentation met sepsis criteria with elevated WBC
   with bandemia, fever, hypotension and known source of infection in
   urine and blood.  Patient developed hypotension refractory to fluids,
   started dopamine - with rise of sbp to 100's and stable.  A line
   attempted multiple times, but unsuccessful as patient has high
   calcified peripheral arteries.  WBC count down to 23 from 33 on
   admission.  Cr improving.
   - continue peripheral dopamine for bp support
 has poor anatomy for IJ
   or SC CVL placement
   - continue broad spectrum antiobiotics to cover proteus UTI/bacteremia
   with zosyn, c. diff with vancomycin po and flagyl iv.  Needs total of 7
   days of treatment for HAP to end [**2114-12-10**].  C. diff tx duration for 2
   week after all other antibiotics are stopped
   - UOP goal >30
   - Follow-up blood, urine, sputum and stool cultures
   - Trend WBC count and fever curve
   # Goals of Care: Patient with poor functional status at baseline,
   DNR/DNI.  Given need for pressor support, may not return to baseline
   function
   -family meeting with daughter today
   -will alter treatment as outline pending outcome of family meeting
   # UTI:  Ucx from rehab (+) for proteus sensitive to Zosyn and resistant
   to cipro/levo/bactrim.  Foley replaced on admission.
   - Zosyn for 14 days of treatment for complicated UTI
   # Oliguria:  Has been oliguric since admission.  Received a total of
   2.5L of fluid, has elevated JVP.  No CVP available as has no central
   access.
   - dopamine to maintain UOP>30, can trail fluid boluses to see if
   increases UOP
   # PNA:  Diffusely rhonchorous, pleural effusions, ? RLL PNA, has
   significant secretions, per patient, has had increased sputum
   production.
   - contune iv vanco and zosyn for hospital aquired pneuomnia for total
   of 7 days of treatment to end on [**2114-12-10**]
   - influenza DFA pending
   # Protocolitis:  Abd was concerning on admission as he was tender with
   guarding, CT scan showed proctocolitis, also with profuse diarrhea
   concerning for c. diff as has history of this. WBC count trending down
   with abx treatment.  Abdominal pain improving
   - C. diff assay negative x1 though very high suspicion, can have
   negative assay and still be infected
   - continue po vanc and iv flagyl empirically
 should continue for 2
   weeks after last antibiotics are stopped
   - consider surgery c/s for eval if worsens
   # Diarrhea:  Has hx of c. diff, given markedly elevated WBC on
   admission, c. diff high on differential.  Though he is bacteremic and
   has a UTI such a significant leukocytosis is more c/w c. diff than with
   the other infections.
   - c. diff assay - if positive, meets criteria for severe C. diff given
   WBC, fever and age and merits po vanco treatment
   - cover with po vancomycin and iv flagyl as above
   # ARF on CRI: Improving.  Cr 3.9 on admission, trending down to 3.4
   this morning.  Per NH notes, has CRI, though baseline Cr appears to be
   0.9. Likely pre-renal, has received 4L NS.  Had a lot of blood clots in
   foley at rehab.  Per CT read, no hydro, per rads no need for renal u/s.
   Received total of 2.5L NS on the floor and had gotten 4L NS in ED for a
   total of 6.5L.
   - EF 70%, will carefullly monitor respiratory status
   - trend
   - ensure proper function of foley given clots, may neeed flushing
   - low threshold to c/s urology
   # Elevate INR:  [**11-30**] this morning, not on coumadin, unclear cause.
   Likely nutritional.
   - vitamin K 10mg iv x2
   -recheck coags tomorrow
   # Abnormal EKG: Initial EKG was irregularly irregular, hr in 60's, no
   hx of afib, pt asymptomatic.  Repeat EKG was NSR.
   - no intervention needed
   # Parkinson's:  Continue home meds
   - Speech/swallow eval consult placed
   # Stage IV decubitus ulcer: Has had for several years per daughter.
   - wound care c/s placed
   # Chronic Diastolic Heart Failure:  EF 70% per OSH
   - careful monitoring of respiratory status with fluids
   # Hypothyroidism: Continue home levothyroxine
   # Anemia: Chronic.  Hct 32.2, likely anemia of chronic disease/CRI.
   - trend
   # GERD: Continue home PPI
   .
   # CAD s/p CABG [**2097**]: Hold home BB in setting of sepsis
   # Hyperlipidemia: not treated
   # Chronic osteomyelitis of heels/coccyx:  Stage 2 ulcerations
   bilaterally on heel.
   - Wound care c/s
   # FEN: replete lytes PRN , bolus NS as needed for UOP goal >30, bp
   support
   ICU Care
   Nutrition:  NPO for now, s/sw eval pending
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2114-12-3**] 08:00 PM
   Midline - [**2114-12-3**] 10:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Daughter [**Name (NI) 655**] [**Name (NI) 3997**] (HCP) [**Telephone/Fax (1) 3998**]
   Code status: DNR / DNI but pressors/CVL ok per patient and HCP
   (daughter as above)
   Disposition:ICU

2114-12-05 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2114-12-4**] 10:46 AM
 STOOL CULTURE - At [**2114-12-4**] 10:52 AM
 EKG - At [**2114-12-4**] 05:00 PM
 EKG - At [**2114-12-4**] 05:30 PM
   Allergies:
   Cephalosporins
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2114-12-3**] 11:26 PM
   Piperacillin/Tazobactam (Zosyn) - [**2114-12-5**] 05:46 AM
   Metronidazole - [**2114-12-5**] 06:18 AM
   Infusions:
   Dopamine - 10 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-12-5**] 12:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-12-5**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 118 (68 - 118) bpm
   BP: 105/45(57) {89/31(47) - 121/58(70)} mmHg
   RR: 15 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  2,677 mL
                                                                    476 mL
   PO:
             TF:
   IVF:
                                                                  2,677 mL
                                                                    476 mL
   Blood products:
   Total out:
                                                                    979 mL
                                                                    283 mL
   Urine:
                                                                    799 mL
                                                                    233 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,698 mL
                                                                    193 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   100 K/uL
   10.3 g/dL
   99 mg/dL
   3.4 mg/dL
   20 mEq/L
   4.6 mEq/L
   99 mg/dL
   108 mEq/L
   141 mEq/L
   32.2 %
   23.8 K/uL
        [image002.jpg]
                             [**2114-12-3**]  08:58 PM
                             [**2114-12-4**]  03:21 AM
   WBC
   28.8
   23.8
   Hct
   31.8
   32.2
   Plt
   99
   100
   Cr
   3.6
   3.4
   Glucose
   94
   99
   Other labs: PT / PTT / INR:20.0/44.5/1.9, Lactic Acid:0.9 mmol/L,
   Ca++:7.4 mg/dL, Mg++:2.5 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HYPOTENSION (NOT SHOCK)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 URINARY TRACT INFECTION (UTI)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 DIARRHEA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PARKINSON'S DISEASE
 IMPAIRED SKIN INTEGRITY
 HYPOTHYROIDISM
   86 yo M with PMH of Parkinson's, c. difficile, chronic renal
   insufficeny, stage 4 decub ulcer who presents from nursing home with
   fevers, increased sputum production, and proteus bacterimia and UTI now
   requiring pressor support.
   # Hypotension: On presentation met sepsis criteria with elevated WBC
   with bandemia, fever, hypotension and known source of infection in
   urine and blood.  Patient developed hypotension refractory to fluids,
   started dopamine - with rise of sbp to 100's and stable.  A line
   attempted multiple times, but unsuccessful as patient has high
   calcified peripheral arteries.  WBC count down to 23 from 33 on
   admission.  Cr improving.
   - continue peripheral dopamine for bp support
 has poor anatomy for IJ
   or SC CVL placement
   - continue broad spectrum antiobiotics to cover proteus UTI/bacteremia
   with zosyn, c. diff with vancomycin po and flagyl iv.  Needs total of 7
   days of treatment for HAP to end [**2114-12-10**].  C. diff tx duration for 2
   week after all other antibiotics are stopped
   - UOP goal >30
   - Follow-up blood, urine, sputum and stool cultures
   - Trend WBC count and fever curve
   # Goals of Care: Patient with poor functional status at baseline,
   DNR/DNI.  Given need for pressor support, may not return to baseline
   function
   -family meeting with daughter today
   -will alter treatment as outline pending outcome of family meeting
   # UTI:  Ucx from rehab (+) for proteus sensitive to Zosyn and resistant
   to cipro/levo/bactrim.  Foley replaced on admission.
   - Zosyn for 14 days of treatment for complicated UTI
   # Oliguria:  Has been oliguric since admission.  Received a total of
   2.5L of fluid, has elevated JVP.  No CVP available as has no central
   access.
   - dopamine to maintain UOP>30, can trail fluid boluses to see if
   increases UOP
   # PNA:  Diffusely rhonchorous, pleural effusions, ? RLL PNA, has
   significant secretions, per patient, has had increased sputum
   production.
   - contune iv vanco and zosyn for hospital aquired pneuomnia for total
   of 7 days of treatment to end on [**2114-12-10**]
   - influenza DFA pending
   # Protocolitis:  Abd was concerning on admission as he was tender with
   guarding, CT scan showed proctocolitis, also with profuse diarrhea
   concerning for c. diff as has history of this. WBC count trending down
   with abx treatment.  Abdominal pain improving
   - C. diff assay negative x1 though very high suspicion, can have
   negative assay and still be infected
   - continue po vanc and iv flagyl empirically
 should continue for 2
   weeks after last antibiotics are stopped
   - consider surgery c/s for eval if worsens
   # Diarrhea:  Has hx of c. diff, given markedly elevated WBC on
   admission, c. diff high on differential.  Though he is bacteremic and
   has a UTI such a significant leukocytosis is more c/w c. diff than with
   the other infections.
   - c. diff assay - if positive, meets criteria for severe C. diff given
   WBC, fever and age and merits po vanco treatment
   - cover with po vancomycin and iv flagyl as above
   # ARF on CRI: Improving.  Cr 3.9 on admission, trending down to 3.4
   this morning.  Per NH notes, has CRI, though baseline Cr appears to be
   0.9. Likely pre-renal, has received 4L NS.  Had a lot of blood clots in
   foley at rehab.  Per CT read, no hydro, per rads no need for renal u/s.
   Received total of 2.5L NS on the floor and had gotten 4L NS in ED for a
   total of 6.5L.
   - EF 70%, will carefullly monitor respiratory status
   - trend
   - ensure proper function of foley given clots, may neeed flushing
   - low threshold to c/s urology
   # Elevate INR:  [**11-30**] this morning, not on coumadin, unclear cause.
   Likely nutritional.
   - vitamin K 10mg iv x2
   -recheck coags tomorrow
   # Abnormal EKG: Initial EKG was irregularly irregular, hr in 60's, no
   hx of afib, pt asymptomatic.  Repeat EKG was NSR.
   - no intervention needed
   # Parkinson's:  Continue home meds
   - Speech/swallow eval consult placed
   # Stage IV decubitus ulcer: Has had for several years per daughter.
   - wound care c/s placed
   # Chronic Diastolic Heart Failure:  EF 70% per OSH
   - careful monitoring of respiratory status with fluids
   # Hypothyroidism: Continue home levothyroxine
   # Anemia: Chronic.  Hct 32.2, likely anemia of chronic disease/CRI.
   - trend
   # GERD: Continue home PPI
   .
   # CAD s/p CABG [**2097**]: Hold home BB in setting of sepsis
   # Hyperlipidemia: not treated
   # Chronic osteomyelitis of heels/coccyx:  Stage 2 ulcerations
   bilaterally on heel.
   - Wound care c/s
   # FEN: replete lytes PRN , bolus NS as needed for UOP goal >30, bp
   support
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2114-12-3**] 08:00 PM
   Midline - [**2114-12-3**] 10:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2114-12-05 09:14:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Increased secretions noted w/ desats to mid 80s. Placed on NRB,
   received pulm toilet, and scopolamine patch started. Continued
   hypotension w/ titration up of dopamine. Difficulty placing NGT.
   This am mental status has declined. Denies pain or SOB. Secretions have
   diminished. unable to draw blood for am labs.
   Allergies:
   Cephalosporins
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2114-12-3**] 11:26 PM
   Piperacillin/Tazobactam (Zosyn) - [**2114-12-5**] 05:46 AM
   Metronidazole - [**2114-12-5**] 06:18 AM
   Infusions:
   Dopamine - 10 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-12-5**] 12:27 AM
   Other medications:
   not receiving po meds, including po vanco due to lack of enteral
   access.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-12-5**] 09:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36
C (96.8
   HR: 117 (68 - 118) bpm
   BP: 117/51(68) {89/31(47) - 121/58(70)} mmHg
   RR: 15 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  2,677 mL
                                                                    554 mL
   PO:
             TF:
   IVF:
                                                                  2,677 mL
                                                                    554 mL
   Blood products:
   Total out:
                                                                    979 mL
                                                                    343 mL
   Urine:
                                                                    799 mL
                                                                    293 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,698 mL
                                                                    211 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : R-sided, Rhonchorous:
   diffusely)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   100 K/uL
   99 mg/dL
   3.4 mg/dL
   20 mEq/L
   4.6 mEq/L
   99 mg/dL
   108 mEq/L
   141 mEq/L
   32.2 %
   23.8 K/uL
        [image002.jpg]
                             [**2114-12-3**]  08:58 PM
                             [**2114-12-4**]  03:21 AM
   WBC
   28.8
   23.8
   Hct
   31.8
   32.2
   Plt
   99
   100
   Cr
   3.6
   3.4
   Glucose
   94
   99
   Other labs: PT / PTT / INR:20.0/44.5/1.9, Lactic Acid:0.9 mmol/L,
   Ca++:7.4 mg/dL, Mg++:2.5 mg/dL, PO4:4.6 mg/dL
   Imaging: CXR- B effusions incr, pacthy R-sided infiltrates
   Microbiology: Blood cx- Proteus
   Urine Cx- Proteus
   C.diff neg x2
   Influenza DFA neg
   Sputum- nl flora
   Assessment and Plan
   SEVERE SEPSIS WITH SHOCK- sources include GU, GI, skin breakdown and
   pulm. Known Proteus bacteremia.
   -organ dysfunction evident as pt is lethargic, UOP is low
   -cont vanco IV/ pip-tazo IV/ metronidazole IV/ vanco P and follow cx
   data
   -on peripheral dopamine gtt
   RESPIRATORY DISTRESS- incr O2 req't related to poss incr pulm edema,
   poss aspiration/ pulm secretions and mucous plugging
   -cont pulm toilet
   -head of bed up 30 degress
   -on antibiosis as above; cont to monitor
   CHRONIC KIDNEY DISEASE W/ ACUTE FAILURE- poss ATN from prolonged
   distributive shock/ hypovolemia
   -cont discrete IVF boluses and monitor closely
   -minimize nephrotoxins
   PARKINSON'S DISEASE- unable to take home regimen due to inability to
   obtain enteral access
   IMPAIRED SKIN INTEGRITY- Stge IV breakdown, wound care
   HYPOTHYROIDISM- Synthroid
   COAGULOPATHY- DDx includes DIC from septic shock, ABX esposure
   malnutrition leading to vit K def
   -replete vit K, cont to treat sepsis as above
   GOALS OF CARE- plan to re-address with family and pt; poss transition
   to cmo
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2114-12-3**] 08:00 PM
   Midline - [**2114-12-3**] 10:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Family and patient requesting that we not
   escalate care. Discussed in depth; family aware of his grave
   circumstances
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill